US07977344B2
N2-Butyl-9-[4-(2,2-dimethyltetrahydro-2H-pyran-4-yl)butyl]-8-(methyloxy)-9H-purine-2,6-diamine
Prepared similarly to Intermediate 223 from N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate and 4-(4-bromobutyl)-2,2-dimethyltetrahydro-2H-pyran but conducting the alkylation over 1.5 hours at 60° C.

reactant | N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(N=C2N1)OC)N
reactant | 4-(4-bromobutyl)-2,2-dimethyltetrahydro-2H-pyran | BrCCCCC1CC(OCC1)(C)C | C11H21BrO
product | N2-Butyl-9-[4-(2,2-dimethyltetrahydro-2H-pyran-4-yl)butyl]-8-(methyloxy)-9H-purine-2,6-diamine | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCCC1CC(OCC1)(C)C)OC)N | C21H36N6O2
